US06720324B2
N1-[3-(1,2,3,6-TETRAHYDRO-4-PYRIDINYL)PHENYL]ACETAMIDE:
A solution of 4 M HCl in dioxane (10 mL) was added to tert-butyl 4-[3-(acetylamino)phenyl]-1,2,3,6-tetrahydro-1-pyridinecarboxyl-ate (8.25 mmol) in dichloromethane (30 mL). The reaction mixture was stirred at room temperature overnight, concentrated in vacuo, giving the desired product as the hydrochloride salt (2.1 g). 1H NMR δ 7.41-7.00 (m, 4 H), 6.10 (br, 1 H), 3.55 (m, 2 H), 3.16 (t, 2 H, J=5.7 Hz), 2.44 (m, 2 H), 2.19 (s, 3 H).

reactant | HCl | 4 M | Cl | ClH
reactant | tert-butyl 4-[3-(acetylamino)phenyl]-1,2,3,6-tetrahydro-1-pyridinecarboxyl-ate | 8.25 mmol | C(C)(=O)NC=1C=C(C=CC1)C=1CCN(CC1)C(=O)OC(C)(C)C | C18H24N2O3
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N1-[3-(1,2,3,6-TETRAHYDRO-4-PYRIDINYL)PHENYL]ACETAMIDE | N1CCC(=CC1)C=1C=C(C=CC1)NC(C)=O | C13H16N2O
